US04500541
A mixture of 1 g of 1-dimethylamino-3-cyclopropyl-3-p-methoxyphenoxy-propane and 1 g of pyridine hydrochloride is stirred for 3 hours at 160°. After the customary working up, 1-dimethylamino-3-cyclopropyl-3-p-hydroxyphenoxy-propane is obtained.

reactant | 1-dimethylamino-3-cyclopropyl-3-p-methoxyphenoxy-propane | 1 g | CN(CCC(OC1=CC=C(C=C1)OC)C1CC1)C | C15H23NO2
reactant | pyridine hydrochloride | 1 g | Cl.N1=CC=CC=C1
product | 1-dimethylamino-3-cyclopropyl-3-p-hydroxyphenoxy-propane | CN(CCC(OC1=CC=C(C=C1)O)C1CC1)C | C14H21NO2
